US07812028B2
Preparation of N-(2-Cyclopropyl-2-hydroxy-propyl)-6-(cyclopropylmethyl-methyl-amino)-5-(4-fluoro-phenyl)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 43, using 5-bromo-6-chloro-nicotinic acid methyl ester, cyclopropylmethyl methylamine hydrochloride, (commercially available), 4-fluorophenyl-boronic acid (commercially available) and rac-1-amino-2-cyclopropyl-propan-2-ol (commercially available) as starting materials. MS (ISP): 398.0 (M+H+).

reactant | 5-bromo-6-chloro-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | cyclopropylmethyl methylamine hydrochloride | Cl.C1(CC1)CNC
reactant | 4-fluorophenyl-boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | rac-1-amino-2-cyclopropyl-propan-2-ol | NCC(C)(O)C1CC1 | C6H13NO
product | N-(2-Cyclopropyl-2-hydroxy-propyl)-6-(cyclopropylmethyl-methyl-amino)-5-(4-fluoro-phenyl)-nicotinamide | C1(CC1)C(CNC(C1=CN=C(C(=C1)C1=CC=C(C=C1)F)N(C)CC1CC1)=O)(C)O | C23H28FN3O2
